US08633335B2
A solution of Am-80 (320 mg, 0.912 mmol) and triethylamine (152 μl, 1.09 mmol) in tetrahydrofuran (5 ml) was cooled to −20° C., and added dropwise with a solution of methyl chloroformate (82 μl, 1.06 mmol) in tetrahydrofuran, and the mixture was stirred for 1 hour. The reaction mixture was filtered through Cerite, and then washed with tetrahydrofuran (3 ml). The filtrate was cooled on ice, and added with NaBH4 (208 mg, 5.47 mmol), then the mixture was slowly added dropwise with water (4 ml) with vigorous stirring, and stirring was further continued over 18 hours until the reaction mixture became 26° C. The reaction mixture was added with saturated aqueous ammonium chloride, the mixture was extracted with ethyl acetate, and the organic layer was treated in a conventional manner. The residue was separated by silica gel chromatography [eluted with hexane-ethyl acetate (2:1)], and recrystallized to obtain 4-hydroxymethyl-N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)benzamide (290 mg, 94%) as colorless prisms.

reactant | Am-80 | 0.912 mmol, 320 mg | CC1(CCC(C2=C1C=CC(=C2)NC(=O)C3=CC=C(C=C3)C(=O)O)(C)C)C | C22H25NO3
reactant | triethylamine | 1.09 mmol, 152 μl | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 1.06 mmol, 82 μl | ClC(=O)OC | C2H3ClO2
reactant | NaBH4 | 5.47 mmol, 208 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 4-hydroxymethyl-N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)benzamide | 290 mg, 94% | OCC1=CC=C(C(=O)NC2=CC=3C(CCC(C3C=C2)(C)C)(C)C)C=C1 | C22H27NO2
